US07482366B2
2-Chloro-3-trifluoromethyl-pyridine (4.43 g, 24.4 mmol) was dissolved in 42 ml 21% (wt.) sodium ethoxide in ethanol. The mixture was stirred at ambient temperature for 1.5 days. After this period of time, the solvent was evaporated and the residue was taken into water and extracted with dichloromethane three times. The combined extract was washed with brine, dried over sodium sulfate, and concentrated in vacuo to give 2-ethoxy-3-trifluoromethyl-pyridine as a light liquid (3.42 g, 73% yield). The crude product was used directly for the next step. 1H-NMR (400 MHz, CDCl3): δ 1.42 (t, 3H, J=7.07), 4.49 (q, 2H, J=7.07), 6.94 (dd, 1H, J=7.45, J=5.05), 7.85 (dd, 1H, J=1.26, J=7.45), 8.30 (dd, 1H, J=1.26, J=5.06).

reactant | 2-Chloro-3-trifluoromethyl-pyridine | 24.4 mmol, 4.43 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | sodium ethoxide | 42 ml | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-ethoxy-3-trifluoromethyl-pyridine | C(C)OC1=NC=CC=C1C(F)(F)F | C8H8F3NO
